US08957078B2
2-amino-N-(4-bromo-3-methyl-isothiazol-5-yl)-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxamide (20 mg, 0.05388 mmol), tributyl-(3-methylimidazol-4-yl)stannane (40.01 mg, 0.1078 mmol) dichloropalladium triphenylphosphane (7.566 mg, 0.01078 mmol) in DMF (2 mL) was degassed for 5 min, then heated at 110° C. After 2 h, the reaction mixture was loaded on a SCX column, washed with DCM/MeOH mixtures. The product was eluted with a 2M solution of ammonia in MeOH and the eluent was concentrated in vacuo. The residue was purified by fractionlynx to yield 2-amino-6-fluoro-N-(3-methyl-4-(1-methyl-1H-imidazol-5-yl)isothiazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide as a pale yellow solid. (8.09 mg, 37.4%). MS (ES+) 373.1.

reactant | 2-amino-N-(4-bromo-3-methyl-isothiazol-5-yl)-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.05388 mmol, 20 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C(=NS1)C)Br | C11H8BrFN6OS
reactant | tributyl-(3-methylimidazol-4-yl)stannane | 0.1078 mmol, 40.01 mg | C(CCC)[Sn](C=1N(C=NC1)C)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-amino-6-fluoro-N-(3-methyl-4-(1-methyl-1H-imidazol-5-yl)isothiazol-5-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C(C(=NS1)C)C1=CN=CN1C | C15H13FN8OS
